US07109199B2
1-[4-(5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylcarbamoyl)butyl]pyridinium bromide
Oxalyl chloride (0.1 mL, 1.2 mmol) was added to a solution of 5-bromovaleric acid (86 mg, 0.48 mmol) in dichloromethane (10 mL). N,N-Dimethylformamide (1 drop) was added and the mixture was stirred at ambient temperature for 16 hours. The solvent was removed under vacuum, the residue was azeotroped with toluene (3×30 mL) and evaporated to dryness. To this crude acid chloride was added 5-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine (Description 2; 100 mg, 0.48 mmol), pyridine (20 mL). and 4-dimethylaminopyridine (cat). The solution was refluxed at 120° C. for 16 hours then evaporated. The residual material was purified by preparative HPLC on a C18 column, using a gradient elution with 10–90% v/v of acetonitrile (containing 0.01% v/v trifluoroacetic acid) and water (containing 0.1% v/v trifluoroacetic acid) to afford the title compound.

reactant | Oxalyl chloride | 1.2 mmol, 0.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-bromovaleric acid | 0.48 mmol, 86 mg | BrCCCCC(=O)O | C5H9BrO2
reactant | 5-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylamine | 0.48 mmol, 100 mg | C1(=CC=CC=C1)C=1C=C2C(=NC1)NN=C2N | C12H10N4
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-Dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[4-(5-Phenyl-1H-pyrazolo[3,4-b]pyridin-3-ylcarbamoyl)butyl]pyridinium bromide | [Br-].C1(=CC=CC=C1)C=1C=C2C(=NC1)NN=C2NC(=O)CCCC[N+]2=CC=CC=C2 | InChI=1S/C22H21N5O.BrH/c28-20(11-5-8-14-27-12-6-2-7-13-27)24-22-19-15-18(16-23-21(19)25-26-22)17-9-3-1-4-10-17;/h1-4,6-7,9-10,12-13,15-16H,5,8,11,14H2,(H-,23,24,25,26,28);1H
